US08871766B2
2,4′-bipyridin-3-yl(4-(4-fluorobenzyl)-4-hydroxypiperidin-1-yl)methanone
A suspension of 2-chloronicotinic acid (0.15 g), 4-(4-fluorobenzyl)-4-hydroxypiperidine hydrochloride (0.26 g), HATU (0.43 g) and triethylamine (0.66 mL) in DMF (5 mL) was stirred at room temperature for 4 hr. The reaction mixture was diluted with water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was dissolved in DME (5.0 mL), and pyridine-4-boronic acid (0.13 g), sodium carbonate (0.20 g), tetrakis(triphenylphosphine)palladium(0) (0.055 g) and water (1.0 mL) were added thereto, and the mixture was stirred at 140° C. for 1 hr under microwave irradiation. The reaction mixture was diluted with water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (NH, ethyl acetate/hexane), and then purified by preparative HPLC (C18, mobile phase: water/acetonitrile (containing 0.1% TFA)), and the obtained fraction was concentrated under reduced pressure. To the residue was added saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to give the title compound (0.21 g).

reactant | 2-chloronicotinic acid | 0.15 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | 4-(4-fluorobenzyl)-4-hydroxypiperidine hydrochloride | 0.26 g | Cl.FC1=CC=C(CC2(CCNCC2)O)C=C1
reactant | HATU | 0.43 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.66 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2,4′-bipyridin-3-yl(4-(4-fluorobenzyl)-4-hydroxypiperidin-1-yl)methanone | 0.21 g | N1=C(C(=CC=C1)C(=O)N1CCC(CC1)(O)CC1=CC=C(C=C1)F)C1=CC=NC=C1 | C23H22FN3O2
